US04031232
152.5 Grams (1 mole) of chloroacetaldehyde-diethylacetal were heated at 100° C for 6 hours on the steam bath, together with 162 g (1 mole) of 4-methylthiophenol-sodium salt in 200 ml of dimethylacetamide (in a manner analogous to Comptes Rendus 194, 617 (1932)). After the precipitated sodium chloride had been suction-filtered, the solvent was removed by distillation under reduced pressure. 4-Methylthio-phenoxyacetaldehyde-diethylacetal was obtained as an oily residue which was directly further reacted.

reactant | chloroacetaldehyde-diethylacetal | 1 mole | C(C)OC(CCl)OCC | C6H13ClO2
reactant | 4-methylthiophenol sodium | 1 mole, 162 g | CC1=CC=C(C=C1)S.[Na]
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | 4-Methylthio-phenoxyacetaldehyde-diethylacetal | C(C)OC(CSC1=CC=C(C=C1)C)OCC | C13H20O2S
